gprod char wide
simulator lang=spice
.model NNR NMOS (LEVEL=1 VTO=0.2 KP=120u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.model PNR PMOS (LEVEL=1 VTO=-0.2 KP=40u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.subckt gsyn inp inn wp wn outp outn vdd vbn
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na wp s5 0 NNR W=200u L=100u
Rd5 s5 nt 12k
M6 nb wn s6 0 NNR W=200u L=100u
Rd6 s6 nt 12k
M1 outp inp s1 0 NNR W=200u L=100u
Rd1 s1 na 12k
M2 outn inn s2 0 NNR W=200u L=100u
Rd2 s2 na 12k
M3 outn inp s3 0 NNR W=200u L=100u
Rd3 s3 nb 12k
M4 outp inn s4 0 NNR W=200u L=100u
Rd4 s4 nb 12k
.ends
.subckt gsynL inp inn wp wn outp outn vdd vbn
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na wp s5 0 NNR W=200u L=100u
Rd5 s5 nt 60k
M6 nb wn s6 0 NNR W=200u L=100u
Rd6 s6 nt 60k
M1 outp inp s1 0 NNR W=200u L=100u
Rd1 s1 na 60k
M2 outn inn s2 0 NNR W=200u L=100u
Rd2 s2 na 60k
M3 outn inp s3 0 NNR W=200u L=100u
Rd3 s3 nb 60k
M4 outp inn s4 0 NNR W=200u L=100u
Rd4 s4 nb 60k
.ends
.subckt cmld p n vdd
Rcs1 p cmx 300k
Rcs2 n cmx 300k
MLp p cmx vdd vdd PNR W=1000u L=100u
MLn n cmx vdd vdd PNR W=1000u L=100u
.ends
.subckt dneuron up un ap an vdd vbn
M1 an up tn 0 NNR W=200u L=100u
M2 ap un tn 0 NNR W=200u L=100u
Mt tn vbn 0 0 NNR W=200u L=100u
Xcm ap an vdd cmld
.ends
.subckt dneuronT up un ap an tn vdd vbn
M1 an up tn 0 NNR W=200u L=100u
M2 ap un tn 0 NNR W=200u L=100u
Mt tn vbn 0 0 NNR W=200u L=100u
Xcm ap an vdd cmld
.ends
.subckt esub xp xn mp mn ep en vdd vbn
Mt nt vbn 0 0 NNR W=400u L=100u
M1x ep xn s1x 0 NNR W=200u L=100u
Rs1x s1x nt 0
M2x en xp s2x 0 NNR W=200u L=100u
Rs2x s2x nt 0
M1m ep mp s1m 0 NNR W=200u L=100u
Rs1m s1m nt 0
M2m en mn s2m 0 NNR W=200u L=100u
Rs2m s2m nt 0
RLp vdd ep 50k
RLn vdd en 50k
.ends
.subckt gprod xp xn yp yn wp wn vdd vbn
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na yp sy5 0 NNR W=200u L=100u
Rg5 sy5 nt 12k
M6 nb yn sy6 0 NNR W=200u L=100u
Rg6 sy6 nt 12k
M1 iop xp sx1 0 NNR W=200u L=100u
Rg1 sx1 na 12k
M2 ion xn sx2 0 NNR W=200u L=100u
Rg2 sx2 na 12k
M3 ion xp sx3 0 NNR W=200u L=100u
Rg3 sx3 nb 12k
M4 iop xn sx4 0 NNR W=200u L=100u
Rg4 sx4 nb 12k
Mlp iop iop vdd vdd PNR W=200u L=100u
Mln ion ion vdd vdd PNR W=200u L=100u
Mpu_wp wp iop vdd vdd PNR W=200u L=100u
MpRn nrn ion vdd vdd PNR W=200u L=100u
MnRn nrn nrn 0 0 NNR W=200u L=100u
Mpd_wp wp nrn 0 0 NNR W=200u L=100u
Mpu_wn wn ion vdd vdd PNR W=200u L=100u
MpRp nrp iop vdd vdd PNR W=200u L=100u
MnRp nrp nrp 0 0 NNR W=200u L=100u
Mpd_wn wn nrp 0 0 NNR W=200u L=100u
.ends
.subckt gprodC ap an bp bn yp yn wp wn ckd ckr pk vdd vbn
* CHOPPER-EP update: input mux (a when ckd | b when ckr) + output H-bridge (direct ckd | crossed ckr)
Mxa1 ap ckd xip 0 NNR W=200u L=100u
Mxa2 an ckd xin 0 NNR W=200u L=100u
Mxb1 bp ckr xip 0 NNR W=200u L=100u
Mxb2 bn ckr xin 0 NNR W=200u L=100u
Rpki xip pk 10meg
Rpkj xin pk 10meg
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na yp sy5 0 NNR W=200u L=100u
Rg5 sy5 nt 12k
M6 nb yn sy6 0 NNR W=200u L=100u
Rg6 sy6 nt 12k
M1 iop xip sx1 0 NNR W=200u L=100u
Rg1 sx1 na 12k
M2 ion xin sx2 0 NNR W=200u L=100u
Rg2 sx2 na 12k
M3 ion xip sx3 0 NNR W=200u L=100u
Rg3 sx3 nb 12k
M4 iop xin sx4 0 NNR W=200u L=100u
Rg4 sx4 nb 12k
Mlp iop iop vdd vdd PNR W=200u L=100u
Mln ion ion vdd vdd PNR W=200u L=100u
Mpu_op op iop vdd vdd PNR W=200u L=100u
MpRn nrn ion vdd vdd PNR W=200u L=100u
MnRn nrn nrn 0 0 NNR W=200u L=100u
Mpd_op op nrn 0 0 NNR W=200u L=100u
Mpu_on on ion vdd vdd PNR W=200u L=100u
MpRp nrp iop vdd vdd PNR W=200u L=100u
MnRp nrp nrp 0 0 NNR W=200u L=100u
Mpd_on on nrp 0 0 NNR W=200u L=100u
Mbd1 op ckd wp 0 NNR W=200u L=100u
Mbd2 on ckd wn 0 NNR W=200u L=100u
Mbr1 op ckr wn 0 NNR W=200u L=100u
Mbr2 on ckr wp 0 NNR W=200u L=100u
Rpko op pk 10meg
Rpkn on pk 10meg
.ends
Vdd vdd 0 1.0
Vb gbl 0 0.6
Vxp xp 0 PWL(0.0n 0.2500 39.9n 0.2500 40.0n 0.2500 79.9n 0.2500 80.0n 0.2500 119.9n 0.2500 120.0n 0.2500 159.9n 0.2500 160.0n 0.2500 199.9n 0.2500 200.0n 0.2500 239.9n 0.2500 240.0n 0.2500 279.9n 0.2500 280.0n 0.3350 319.9n 0.3350 320.0n 0.3350 359.9n 0.3350 360.0n 0.3350 399.9n 0.3350 400.0n 0.3350 439.9n 0.3350 440.0n 0.3350 479.9n 0.3350 480.0n 0.3350 519.9n 0.3350 520.0n 0.3350 559.9n 0.3350 560.0n 0.4150 599.9n 0.4150 600.0n 0.4150 639.9n 0.4150 640.0n 0.4150 679.9n 0.4150 680.0n 0.4150 719.9n 0.4150 720.0n 0.4150 759.9n 0.4150 760.0n 0.4150 799.9n 0.4150 800.0n 0.4150 839.9n 0.4150 840.0n 0.5000 879.9n 0.5000 880.0n 0.5000 919.9n 0.5000 920.0n 0.5000 959.9n 0.5000 960.0n 0.5000 999.9n 0.5000 1000.0n 0.5000 1039.9n 0.5000 1040.0n 0.5000 1079.9n 0.5000 1080.0n 0.5000 1119.9n 0.5000 1120.0n 0.5850 1159.9n 0.5850 1160.0n 0.5850 1199.9n 0.5850 1200.0n 0.5850 1239.9n 0.5850 1240.0n 0.5850 1279.9n 0.5850 1280.0n 0.5850 1319.9n 0.5850 1320.0n 0.5850 1359.9n 0.5850 1360.0n 0.5850 1399.9n 0.5850 1400.0n 0.6650 1439.9n 0.6650 1440.0n 0.6650 1479.9n 0.6650 1480.0n 0.6650 1519.9n 0.6650 1520.0n 0.6650 1559.9n 0.6650 1560.0n 0.6650 1599.9n 0.6650 1600.0n 0.6650 1639.9n 0.6650 1640.0n 0.6650 1679.9n 0.6650 1680.0n 0.7500 1719.9n 0.7500 1720.0n 0.7500 1759.9n 0.7500 1760.0n 0.7500 1799.9n 0.7500 1800.0n 0.7500 1839.9n 0.7500 1840.0n 0.7500 1879.9n 0.7500 1880.0n 0.7500 1919.9n 0.7500 1920.0n 0.7500 1959.9n 0.7500)
Vxn xn 0 PWL(0.0n 0.7500 39.9n 0.7500 40.0n 0.7500 79.9n 0.7500 80.0n 0.7500 119.9n 0.7500 120.0n 0.7500 159.9n 0.7500 160.0n 0.7500 199.9n 0.7500 200.0n 0.7500 239.9n 0.7500 240.0n 0.7500 279.9n 0.7500 280.0n 0.6650 319.9n 0.6650 320.0n 0.6650 359.9n 0.6650 360.0n 0.6650 399.9n 0.6650 400.0n 0.6650 439.9n 0.6650 440.0n 0.6650 479.9n 0.6650 480.0n 0.6650 519.9n 0.6650 520.0n 0.6650 559.9n 0.6650 560.0n 0.5850 599.9n 0.5850 600.0n 0.5850 639.9n 0.5850 640.0n 0.5850 679.9n 0.5850 680.0n 0.5850 719.9n 0.5850 720.0n 0.5850 759.9n 0.5850 760.0n 0.5850 799.9n 0.5850 800.0n 0.5850 839.9n 0.5850 840.0n 0.5000 879.9n 0.5000 880.0n 0.5000 919.9n 0.5000 920.0n 0.5000 959.9n 0.5000 960.0n 0.5000 999.9n 0.5000 1000.0n 0.5000 1039.9n 0.5000 1040.0n 0.5000 1079.9n 0.5000 1080.0n 0.5000 1119.9n 0.5000 1120.0n 0.4150 1159.9n 0.4150 1160.0n 0.4150 1199.9n 0.4150 1200.0n 0.4150 1239.9n 0.4150 1240.0n 0.4150 1279.9n 0.4150 1280.0n 0.4150 1319.9n 0.4150 1320.0n 0.4150 1359.9n 0.4150 1360.0n 0.4150 1399.9n 0.4150 1400.0n 0.3350 1439.9n 0.3350 1440.0n 0.3350 1479.9n 0.3350 1480.0n 0.3350 1519.9n 0.3350 1520.0n 0.3350 1559.9n 0.3350 1560.0n 0.3350 1599.9n 0.3350 1600.0n 0.3350 1639.9n 0.3350 1640.0n 0.3350 1679.9n 0.3350 1680.0n 0.2500 1719.9n 0.2500 1720.0n 0.2500 1759.9n 0.2500 1760.0n 0.2500 1799.9n 0.2500 1800.0n 0.2500 1839.9n 0.2500 1840.0n 0.2500 1879.9n 0.2500 1880.0n 0.2500 1919.9n 0.2500 1920.0n 0.2500 1959.9n 0.2500)
Vyp yp 0 PWL(0.0n 0.2500 39.9n 0.2500 40.0n 0.3350 79.9n 0.3350 80.0n 0.4150 119.9n 0.4150 120.0n 0.5000 159.9n 0.5000 160.0n 0.5850 199.9n 0.5850 200.0n 0.6650 239.9n 0.6650 240.0n 0.7500 279.9n 0.7500 280.0n 0.2500 319.9n 0.2500 320.0n 0.3350 359.9n 0.3350 360.0n 0.4150 399.9n 0.4150 400.0n 0.5000 439.9n 0.5000 440.0n 0.5850 479.9n 0.5850 480.0n 0.6650 519.9n 0.6650 520.0n 0.7500 559.9n 0.7500 560.0n 0.2500 599.9n 0.2500 600.0n 0.3350 639.9n 0.3350 640.0n 0.4150 679.9n 0.4150 680.0n 0.5000 719.9n 0.5000 720.0n 0.5850 759.9n 0.5850 760.0n 0.6650 799.9n 0.6650 800.0n 0.7500 839.9n 0.7500 840.0n 0.2500 879.9n 0.2500 880.0n 0.3350 919.9n 0.3350 920.0n 0.4150 959.9n 0.4150 960.0n 0.5000 999.9n 0.5000 1000.0n 0.5850 1039.9n 0.5850 1040.0n 0.6650 1079.9n 0.6650 1080.0n 0.7500 1119.9n 0.7500 1120.0n 0.2500 1159.9n 0.2500 1160.0n 0.3350 1199.9n 0.3350 1200.0n 0.4150 1239.9n 0.4150 1240.0n 0.5000 1279.9n 0.5000 1280.0n 0.5850 1319.9n 0.5850 1320.0n 0.6650 1359.9n 0.6650 1360.0n 0.7500 1399.9n 0.7500 1400.0n 0.2500 1439.9n 0.2500 1440.0n 0.3350 1479.9n 0.3350 1480.0n 0.4150 1519.9n 0.4150 1520.0n 0.5000 1559.9n 0.5000 1560.0n 0.5850 1599.9n 0.5850 1600.0n 0.6650 1639.9n 0.6650 1640.0n 0.7500 1679.9n 0.7500 1680.0n 0.2500 1719.9n 0.2500 1720.0n 0.3350 1759.9n 0.3350 1760.0n 0.4150 1799.9n 0.4150 1800.0n 0.5000 1839.9n 0.5000 1840.0n 0.5850 1879.9n 0.5850 1880.0n 0.6650 1919.9n 0.6650 1920.0n 0.7500 1959.9n 0.7500)
Vyn yn 0 PWL(0.0n 0.7500 39.9n 0.7500 40.0n 0.6650 79.9n 0.6650 80.0n 0.5850 119.9n 0.5850 120.0n 0.5000 159.9n 0.5000 160.0n 0.4150 199.9n 0.4150 200.0n 0.3350 239.9n 0.3350 240.0n 0.2500 279.9n 0.2500 280.0n 0.7500 319.9n 0.7500 320.0n 0.6650 359.9n 0.6650 360.0n 0.5850 399.9n 0.5850 400.0n 0.5000 439.9n 0.5000 440.0n 0.4150 479.9n 0.4150 480.0n 0.3350 519.9n 0.3350 520.0n 0.2500 559.9n 0.2500 560.0n 0.7500 599.9n 0.7500 600.0n 0.6650 639.9n 0.6650 640.0n 0.5850 679.9n 0.5850 680.0n 0.5000 719.9n 0.5000 720.0n 0.4150 759.9n 0.4150 760.0n 0.3350 799.9n 0.3350 800.0n 0.2500 839.9n 0.2500 840.0n 0.7500 879.9n 0.7500 880.0n 0.6650 919.9n 0.6650 920.0n 0.5850 959.9n 0.5850 960.0n 0.5000 999.9n 0.5000 1000.0n 0.4150 1039.9n 0.4150 1040.0n 0.3350 1079.9n 0.3350 1080.0n 0.2500 1119.9n 0.2500 1120.0n 0.7500 1159.9n 0.7500 1160.0n 0.6650 1199.9n 0.6650 1200.0n 0.5850 1239.9n 0.5850 1240.0n 0.5000 1279.9n 0.5000 1280.0n 0.4150 1319.9n 0.4150 1320.0n 0.3350 1359.9n 0.3350 1360.0n 0.2500 1399.9n 0.2500 1400.0n 0.7500 1439.9n 0.7500 1440.0n 0.6650 1479.9n 0.6650 1480.0n 0.5850 1519.9n 0.5850 1520.0n 0.5000 1559.9n 0.5000 1560.0n 0.4150 1599.9n 0.4150 1600.0n 0.3350 1639.9n 0.3350 1640.0n 0.2500 1679.9n 0.2500 1680.0n 0.7500 1719.9n 0.7500 1720.0n 0.6650 1759.9n 0.6650 1760.0n 0.5850 1799.9n 0.5850 1800.0n 0.5000 1839.9n 0.5000 1840.0n 0.4150 1879.9n 0.4150 1880.0n 0.3350 1919.9n 0.3350 1920.0n 0.2500 1959.9n 0.2500)
Cwp wp 0 30p
Cwn wn 0 30p
.ic v(wp)=0.5 v(wn)=0.5
Xg xp xn yp yn wp wn vdd gbl gprod
.tran 0.5n 1960n uic
.save wp wn
.end
