gprod char realistic CM
simulator lang=spice
.model NNR NMOS (LEVEL=1 VTO=0.2 KP=120u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.model PNR PMOS (LEVEL=1 VTO=-0.2 KP=40u LAMBDA=0.02 GAMMA=0 PHI=0.7)
.subckt gsyn inp inn wp wn outp outn vdd vbn
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na wp s5 0 NNR W=200u L=100u
Rd5 s5 nt 12k
M6 nb wn s6 0 NNR W=200u L=100u
Rd6 s6 nt 12k
M1 outp inp s1 0 NNR W=200u L=100u
Rd1 s1 na 12k
M2 outn inn s2 0 NNR W=200u L=100u
Rd2 s2 na 12k
M3 outn inp s3 0 NNR W=200u L=100u
Rd3 s3 nb 12k
M4 outp inn s4 0 NNR W=200u L=100u
Rd4 s4 nb 12k
.ends
.subckt gsynL inp inn wp wn outp outn vdd vbn
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na wp s5 0 NNR W=200u L=100u
Rd5 s5 nt 60k
M6 nb wn s6 0 NNR W=200u L=100u
Rd6 s6 nt 60k
M1 outp inp s1 0 NNR W=200u L=100u
Rd1 s1 na 60k
M2 outn inn s2 0 NNR W=200u L=100u
Rd2 s2 na 60k
M3 outn inp s3 0 NNR W=200u L=100u
Rd3 s3 nb 60k
M4 outp inn s4 0 NNR W=200u L=100u
Rd4 s4 nb 60k
.ends
.subckt cmld p n vdd
Rcs1 p cmx 300k
Rcs2 n cmx 300k
MLp p cmx vdd vdd PNR W=1000u L=100u
MLn n cmx vdd vdd PNR W=1000u L=100u
.ends
.subckt dneuron up un ap an vdd vbn
M1 an up tn 0 NNR W=200u L=100u
M2 ap un tn 0 NNR W=200u L=100u
Mt tn vbn 0 0 NNR W=200u L=100u
Xcm ap an vdd cmld
.ends
.subckt dneuronT up un ap an tn vdd vbn
M1 an up tn 0 NNR W=200u L=100u
M2 ap un tn 0 NNR W=200u L=100u
Mt tn vbn 0 0 NNR W=200u L=100u
Xcm ap an vdd cmld
.ends
.subckt esub xp xn mp mn ep en vdd vbn
Mt nt vbn 0 0 NNR W=400u L=100u
M1x ep xn s1x 0 NNR W=200u L=100u
Rs1x s1x nt 0
M2x en xp s2x 0 NNR W=200u L=100u
Rs2x s2x nt 0
M1m ep mp s1m 0 NNR W=200u L=100u
Rs1m s1m nt 0
M2m en mn s2m 0 NNR W=200u L=100u
Rs2m s2m nt 0
RLp vdd ep 50k
RLn vdd en 50k
.ends
.subckt gprod xp xn yp yn wp wn vdd vbn
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na yp sy5 0 NNR W=200u L=100u
Rg5 sy5 nt 12k
M6 nb yn sy6 0 NNR W=200u L=100u
Rg6 sy6 nt 12k
M1 iop xp sx1 0 NNR W=200u L=100u
Rg1 sx1 na 12k
M2 ion xn sx2 0 NNR W=200u L=100u
Rg2 sx2 na 12k
M3 ion xp sx3 0 NNR W=200u L=100u
Rg3 sx3 nb 12k
M4 iop xn sx4 0 NNR W=200u L=100u
Rg4 sx4 nb 12k
Mlp iop iop vdd vdd PNR W=200u L=100u
Mln ion ion vdd vdd PNR W=200u L=100u
Mpu_wp wp iop vdd vdd PNR W=200u L=100u
MpRn nrn ion vdd vdd PNR W=200u L=100u
MnRn nrn nrn 0 0 NNR W=200u L=100u
Mpd_wp wp nrn 0 0 NNR W=200u L=100u
Mpu_wn wn ion vdd vdd PNR W=200u L=100u
MpRp nrp iop vdd vdd PNR W=200u L=100u
MnRp nrp nrp 0 0 NNR W=200u L=100u
Mpd_wn wn nrp 0 0 NNR W=200u L=100u
.ends
.subckt gprodC ap an bp bn yp yn wp wn ckd ckr pk vdd vbn
* CHOPPER-EP update: input mux (a when ckd | b when ckr) + output H-bridge (direct ckd | crossed ckr)
Mxa1 ap ckd xip 0 NNR W=200u L=100u
Mxa2 an ckd xin 0 NNR W=200u L=100u
Mxb1 bp ckr xip 0 NNR W=200u L=100u
Mxb2 bn ckr xin 0 NNR W=200u L=100u
Rpki xip pk 10meg
Rpkj xin pk 10meg
Mtail nt vbn 0 0 NNR W=400u L=100u
M5 na yp sy5 0 NNR W=200u L=100u
Rg5 sy5 nt 12k
M6 nb yn sy6 0 NNR W=200u L=100u
Rg6 sy6 nt 12k
M1 iop xip sx1 0 NNR W=200u L=100u
Rg1 sx1 na 12k
M2 ion xin sx2 0 NNR W=200u L=100u
Rg2 sx2 na 12k
M3 ion xip sx3 0 NNR W=200u L=100u
Rg3 sx3 nb 12k
M4 iop xin sx4 0 NNR W=200u L=100u
Rg4 sx4 nb 12k
Mlp iop iop vdd vdd PNR W=200u L=100u
Mln ion ion vdd vdd PNR W=200u L=100u
Mpu_op op iop vdd vdd PNR W=200u L=100u
MpRn nrn ion vdd vdd PNR W=200u L=100u
MnRn nrn nrn 0 0 NNR W=200u L=100u
Mpd_op op nrn 0 0 NNR W=200u L=100u
Mpu_on on ion vdd vdd PNR W=200u L=100u
MpRp nrp iop vdd vdd PNR W=200u L=100u
MnRp nrp nrp 0 0 NNR W=200u L=100u
Mpd_on on nrp 0 0 NNR W=200u L=100u
Mbd1 op ckd wp 0 NNR W=200u L=100u
Mbd2 on ckd wn 0 NNR W=200u L=100u
Mbr1 op ckr wn 0 NNR W=200u L=100u
Mbr2 on ckr wp 0 NNR W=200u L=100u
Rpko op pk 10meg
Rpkn on pk 10meg
.ends
Vdd vdd 0 1.0
Vb gbl 0 0.6
Vxp xp 0 PWL(0.0n 0.2800 39.9n 0.2800 40.0n 0.2800 79.9n 0.2800 80.0n 0.2800 119.9n 0.2800 120.0n 0.2800 159.9n 0.2800 160.0n 0.2800 199.9n 0.2800 200.0n 0.2800 239.9n 0.2800 240.0n 0.2800 279.9n 0.2800 280.0n 0.3650 319.9n 0.3650 320.0n 0.3650 359.9n 0.3650 360.0n 0.3650 399.9n 0.3650 400.0n 0.3650 439.9n 0.3650 440.0n 0.3650 479.9n 0.3650 480.0n 0.3650 519.9n 0.3650 520.0n 0.3650 559.9n 0.3650 560.0n 0.4450 599.9n 0.4450 600.0n 0.4450 639.9n 0.4450 640.0n 0.4450 679.9n 0.4450 680.0n 0.4450 719.9n 0.4450 720.0n 0.4450 759.9n 0.4450 760.0n 0.4450 799.9n 0.4450 800.0n 0.4450 839.9n 0.4450 840.0n 0.5300 879.9n 0.5300 880.0n 0.5300 919.9n 0.5300 920.0n 0.5300 959.9n 0.5300 960.0n 0.5300 999.9n 0.5300 1000.0n 0.5300 1039.9n 0.5300 1040.0n 0.5300 1079.9n 0.5300 1080.0n 0.5300 1119.9n 0.5300 1120.0n 0.6150 1159.9n 0.6150 1160.0n 0.6150 1199.9n 0.6150 1200.0n 0.6150 1239.9n 0.6150 1240.0n 0.6150 1279.9n 0.6150 1280.0n 0.6150 1319.9n 0.6150 1320.0n 0.6150 1359.9n 0.6150 1360.0n 0.6150 1399.9n 0.6150 1400.0n 0.6950 1439.9n 0.6950 1440.0n 0.6950 1479.9n 0.6950 1480.0n 0.6950 1519.9n 0.6950 1520.0n 0.6950 1559.9n 0.6950 1560.0n 0.6950 1599.9n 0.6950 1600.0n 0.6950 1639.9n 0.6950 1640.0n 0.6950 1679.9n 0.6950 1680.0n 0.7800 1719.9n 0.7800 1720.0n 0.7800 1759.9n 0.7800 1760.0n 0.7800 1799.9n 0.7800 1800.0n 0.7800 1839.9n 0.7800 1840.0n 0.7800 1879.9n 0.7800 1880.0n 0.7800 1919.9n 0.7800 1920.0n 0.7800 1959.9n 0.7800)
Vxn xn 0 PWL(0.0n 0.7800 39.9n 0.7800 40.0n 0.7800 79.9n 0.7800 80.0n 0.7800 119.9n 0.7800 120.0n 0.7800 159.9n 0.7800 160.0n 0.7800 199.9n 0.7800 200.0n 0.7800 239.9n 0.7800 240.0n 0.7800 279.9n 0.7800 280.0n 0.6950 319.9n 0.6950 320.0n 0.6950 359.9n 0.6950 360.0n 0.6950 399.9n 0.6950 400.0n 0.6950 439.9n 0.6950 440.0n 0.6950 479.9n 0.6950 480.0n 0.6950 519.9n 0.6950 520.0n 0.6950 559.9n 0.6950 560.0n 0.6150 599.9n 0.6150 600.0n 0.6150 639.9n 0.6150 640.0n 0.6150 679.9n 0.6150 680.0n 0.6150 719.9n 0.6150 720.0n 0.6150 759.9n 0.6150 760.0n 0.6150 799.9n 0.6150 800.0n 0.6150 839.9n 0.6150 840.0n 0.5300 879.9n 0.5300 880.0n 0.5300 919.9n 0.5300 920.0n 0.5300 959.9n 0.5300 960.0n 0.5300 999.9n 0.5300 1000.0n 0.5300 1039.9n 0.5300 1040.0n 0.5300 1079.9n 0.5300 1080.0n 0.5300 1119.9n 0.5300 1120.0n 0.4450 1159.9n 0.4450 1160.0n 0.4450 1199.9n 0.4450 1200.0n 0.4450 1239.9n 0.4450 1240.0n 0.4450 1279.9n 0.4450 1280.0n 0.4450 1319.9n 0.4450 1320.0n 0.4450 1359.9n 0.4450 1360.0n 0.4450 1399.9n 0.4450 1400.0n 0.3650 1439.9n 0.3650 1440.0n 0.3650 1479.9n 0.3650 1480.0n 0.3650 1519.9n 0.3650 1520.0n 0.3650 1559.9n 0.3650 1560.0n 0.3650 1599.9n 0.3650 1600.0n 0.3650 1639.9n 0.3650 1640.0n 0.3650 1679.9n 0.3650 1680.0n 0.2800 1719.9n 0.2800 1720.0n 0.2800 1759.9n 0.2800 1760.0n 0.2800 1799.9n 0.2800 1800.0n 0.2800 1839.9n 0.2800 1840.0n 0.2800 1879.9n 0.2800 1880.0n 0.2800 1919.9n 0.2800 1920.0n 0.2800 1959.9n 0.2800)
Vyp yp 0 PWL(0.0n 0.4350 39.9n 0.4350 40.0n 0.5250 79.9n 0.5250 80.0n 0.6150 119.9n 0.6150 120.0n 0.7050 159.9n 0.7050 160.0n 0.7950 199.9n 0.7950 200.0n 0.8850 239.9n 0.8850 240.0n 0.9750 279.9n 0.9750 280.0n 0.4350 319.9n 0.4350 320.0n 0.5250 359.9n 0.5250 360.0n 0.6150 399.9n 0.6150 400.0n 0.7050 439.9n 0.7050 440.0n 0.7950 479.9n 0.7950 480.0n 0.8850 519.9n 0.8850 520.0n 0.9750 559.9n 0.9750 560.0n 0.4350 599.9n 0.4350 600.0n 0.5250 639.9n 0.5250 640.0n 0.6150 679.9n 0.6150 680.0n 0.7050 719.9n 0.7050 720.0n 0.7950 759.9n 0.7950 760.0n 0.8850 799.9n 0.8850 800.0n 0.9750 839.9n 0.9750 840.0n 0.4350 879.9n 0.4350 880.0n 0.5250 919.9n 0.5250 920.0n 0.6150 959.9n 0.6150 960.0n 0.7050 999.9n 0.7050 1000.0n 0.7950 1039.9n 0.7950 1040.0n 0.8850 1079.9n 0.8850 1080.0n 0.9750 1119.9n 0.9750 1120.0n 0.4350 1159.9n 0.4350 1160.0n 0.5250 1199.9n 0.5250 1200.0n 0.6150 1239.9n 0.6150 1240.0n 0.7050 1279.9n 0.7050 1280.0n 0.7950 1319.9n 0.7950 1320.0n 0.8850 1359.9n 0.8850 1360.0n 0.9750 1399.9n 0.9750 1400.0n 0.4350 1439.9n 0.4350 1440.0n 0.5250 1479.9n 0.5250 1480.0n 0.6150 1519.9n 0.6150 1520.0n 0.7050 1559.9n 0.7050 1560.0n 0.7950 1599.9n 0.7950 1600.0n 0.8850 1639.9n 0.8850 1640.0n 0.9750 1679.9n 0.9750 1680.0n 0.4350 1719.9n 0.4350 1720.0n 0.5250 1759.9n 0.5250 1760.0n 0.6150 1799.9n 0.6150 1800.0n 0.7050 1839.9n 0.7050 1840.0n 0.7950 1879.9n 0.7950 1880.0n 0.8850 1919.9n 0.8850 1920.0n 0.9750 1959.9n 0.9750)
Vyn yn 0 PWL(0.0n 0.9750 39.9n 0.9750 40.0n 0.8850 79.9n 0.8850 80.0n 0.7950 119.9n 0.7950 120.0n 0.7050 159.9n 0.7050 160.0n 0.6150 199.9n 0.6150 200.0n 0.5250 239.9n 0.5250 240.0n 0.4350 279.9n 0.4350 280.0n 0.9750 319.9n 0.9750 320.0n 0.8850 359.9n 0.8850 360.0n 0.7950 399.9n 0.7950 400.0n 0.7050 439.9n 0.7050 440.0n 0.6150 479.9n 0.6150 480.0n 0.5250 519.9n 0.5250 520.0n 0.4350 559.9n 0.4350 560.0n 0.9750 599.9n 0.9750 600.0n 0.8850 639.9n 0.8850 640.0n 0.7950 679.9n 0.7950 680.0n 0.7050 719.9n 0.7050 720.0n 0.6150 759.9n 0.6150 760.0n 0.5250 799.9n 0.5250 800.0n 0.4350 839.9n 0.4350 840.0n 0.9750 879.9n 0.9750 880.0n 0.8850 919.9n 0.8850 920.0n 0.7950 959.9n 0.7950 960.0n 0.7050 999.9n 0.7050 1000.0n 0.6150 1039.9n 0.6150 1040.0n 0.5250 1079.9n 0.5250 1080.0n 0.4350 1119.9n 0.4350 1120.0n 0.9750 1159.9n 0.9750 1160.0n 0.8850 1199.9n 0.8850 1200.0n 0.7950 1239.9n 0.7950 1240.0n 0.7050 1279.9n 0.7050 1280.0n 0.6150 1319.9n 0.6150 1320.0n 0.5250 1359.9n 0.5250 1360.0n 0.4350 1399.9n 0.4350 1400.0n 0.9750 1439.9n 0.9750 1440.0n 0.8850 1479.9n 0.8850 1480.0n 0.7950 1519.9n 0.7950 1520.0n 0.7050 1559.9n 0.7050 1560.0n 0.6150 1599.9n 0.6150 1600.0n 0.5250 1639.9n 0.5250 1640.0n 0.4350 1679.9n 0.4350 1680.0n 0.9750 1719.9n 0.9750 1720.0n 0.8850 1759.9n 0.8850 1760.0n 0.7950 1799.9n 0.7950 1800.0n 0.7050 1839.9n 0.7050 1840.0n 0.6150 1879.9n 0.6150 1880.0n 0.5250 1919.9n 0.5250 1920.0n 0.4350 1959.9n 0.4350)
Cwp wp 0 30p
Cwn wn 0 30p
.ic v(wp)=0.5 v(wn)=0.5
Xg xp xn yp yn wp wn vdd gbl gprod
.tran 0.5n 1960n uic
.save wp wn
.end
